US04772600
2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetamide
Under nitrogen flow, sodium hydride (0.96 g, 0.0234 mole, 60% in oil) was washed with hexanes (~70 ml) and decanted. Dimethylformamide was added (100 ml) and the 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine (5.0 g, 0.022 mole) was added in portions. The reaction mixture was heated at 70°-85° C. for 11/2 hours. Chloroacetamide (2.06 g, 0.022 mole) was added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was added to water (~600 ml) and the precipitate was collected by filtration, washed with water, and dried under high vacuum overnight at 50° C. NMR indicated a 14% yield of the isomer: 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide and an 86% yield of the title compound. The solid was dissolved in pyridine, filtered, and diluted with water to produce crystalline product with refrigeration. The solid was collected by filtration, washed with water and dried under high vacuum at 90° C. overnight to give 2.3 g (36.5%) of the title compound, mp 280°-283° C. with decomposition.

reactant | sodium hydride | 0.0234 mole, 0.96 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine | 0.022 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1 | C12H8ClN3
reactant | Chloroacetamide | 0.022 mole, 2.06 g | ClCC(=O)N | C2H4ClNO
solvent | water | ~600 ml | O | H2O
product | 2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetamide | 86% yield | ClC1=CC=C(C=C1)C=1N(C=2C(=NC=CC2)N1)CC(=O)N | C14H11ClN4O
